US04302238
This compound was prepared in the manner of Example IV, using 8.2 grams (0.045 mole) of 2-ethyl-2-methylmalonyl dichloride, 7.1 grams (0.045 mole) of N-(2-chlorophenylmethyl)hydroxylamine and 16 ml of pyridine in 184 ml of methylene chloride. After purification on a silica gel column, 8.2 grams of 2-[(2-chlorophenyl)methyl]-4-ethyl-4-methylisoxazolidine-3,5-dione were obtained as an oil. The nmr and the ir spectra were consistent with the assigned structure.

reactant | 2-ethyl-2-methylmalonyl dichloride | 0.045 mole, 8.2 grams | C(C)C(C(=O)Cl)(C(=O)Cl)C | C6H8Cl2O2
reactant | N-(2-chlorophenylmethyl)hydroxylamine | 0.045 mole, 7.1 grams | ClC1=C(C=CC=C1)CNO | C7H8ClNO
reactant | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 184 ml | C(Cl)Cl | CH2Cl2
product | 2-[(2-chlorophenyl)methyl]-4-ethyl-4-methylisoxazolidine-3,5-dione | 8.2 grams | ClC1=C(C=CC=C1)CN1OC(C(C1=O)(C)CC)=O | C13H14ClNO3
